US07151109B2
Preparation of 3-isopropyl-2-methylpyrazolo[1,5-a]pyridine
A solution of 3-isopropenyl-2-methylpyrazolo[1,5-a]pyridine (0.43 g, 2.5 mmol) in CH2Cl2 (30 mL) was treated with triethylsilane (3 mL, 18.8 mmol) and TFA (6 mL). The reaction was stirred at room temperature for 15 hours then quenched with saturated NaHCO3.The layers were separated and the aqueous layer was extracted with CH2Cl2 and the combined organic layers was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (20% ethyl acetate/heptane) to give 0.19 g (44%) of a yellow oil as the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.45 (d, J=7.0 Hz, 1H), 7.59 (d, J=8.9 Hz, 1H), 7.07–7.03 (m, 1H), 6.71–6.68 (m, 1H), 3.20–3.09 (m, 1H), 2.35 (s, 3H), 1.31 (d, J=7.1 Hz, 6H); 13CNMR (100 MHz, DMSO-d6)δ 147.5, 137.1, 128.1, 121.9, 116.6, 113.5, 110.2, 23.8, 22.7, 12.4; HRMS (FAB) calcd for C11H14N2+H 175.1235. found 175.1236.

reactant | 3-isopropenyl-2-methylpyrazolo[1,5-a]pyridine | 2.5 mmol, 0.43 g | C(=C)(C)C=1C(=NN2C1C=CC=C2)C | C11H12N2
reactant | triethylsilane | 18.8 mmol, 3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-isopropyl-2-methylpyrazolo[1,5-a]pyridine | 0.19 g, 44% | C(C)(C)C=1C(=NN2C1C=CC=C2)C | C11H14N2
